US04937246
To a mixture of coumarin-3-carboxylic acid (0.9 g), 1(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (1.7 g), triethylamine (1.8 g) and N,N-dimethylformamide (20 ml) is added dropwise at room temperature diethyl cyanophosphonate (1.8 ml), followed by stirring for one hour. After addition of water (50 ml), the reaction mixture is left standing for 30 minutes, followed by addition of water (150 ml), ethyl acetate (200 ml) and hexane (50 ml). The mixture is vigorously mixed and the organic layer is separated. The organic layer is washed with water, dried, and concentrated under reduced pressure. The residue is purified by means of a silica gel column chromatography(hexane:acetone=1:1-1:2) to give an oily product, which is crystallized from a mixture of acetone and ethyl ether to afford 1-(3-coumarinylcarbonyl)-4-(3,4,5-trimethoxybenzyl)piperazine (0.35 g) as colorless needles, m.p. 171°-173° C.

reactant | coumarin-3-carboxylic acid | 0.9 g | O1C(=O)C(=CC2=CC=CC=C12)C(=O)O | C10H6O4
reactant | 1(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 1.7 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | triethylamine | 1.8 g | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 1.8 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | hexane | 50 ml | CCCCCC | C6H14
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 150 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(3-coumarinylcarbonyl)-4-(3,4,5-trimethoxybenzyl)piperazine | 0.35 g | O1C(=O)C(=CC2=CC=CC=C12)C(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | C24H26N2O6
